US06809199B2
To a solution of 4,6-dibromo-2-(2-chloro-4-fluorophenyl)-3-methylpyridine (3.55 g, 9.35 mmol, 1 eq) in 1,2-dichloroethane (90 mL) was added N-bromosuccinimide (2.0 g, 11.22 mmol, 1.2 eq) and benzoyl peroxide (226 mg, 0.9 mmol, 0.1 eq). The resulting mixture was degassed with argon then warmed to and maintained at reflux for 5.5 h. The mixture was cooled solvent was removed under reduced pressure, and the material was purified by flash column chromatography eluting with 2% Et2O in hexanes. The material was re-dissolved in CCl4 and N-bromosuccinimide (667 mg) and benzoyl peroxide (75 mg) were added. The mixture was brought to and maintained at reflux for 6.5 h. The mixture was cooled to 0° C., filtered to remove the succinimide, and concentrated under reduced pressure. The product was purified by flash column chromatography on silica gel eluting with 2% Et2O in hexanes to give 4,6-dibromo-3-(bromomethyl)-2-(2-chloro-4-fluorophenyl)pyridine. Mass spectrum (ESI) 456.1 (M+1); 458.0 (M+3); 460.1 (M+5); 462.1 (M+7). 1H NMR (500 MHz, CDCl3) δCHCl3: 7.85 (1H, s); 7.46 (1H, dd, J=8.5 Hz, J=5.7 Hz); 7.27 (1H, dd, J=8.5 Hz, J=2.5 Hz); 7.16 (1H, ddd, J=8.5 Hz, J=8.3 Hz, J=2.5 Hz); 4.55 (1H, ½ ABq, J=10.8 Hz); 4.17 (1H, ½ ABq, J=10.8 Hz,

reactant | 4,6-dibromo-2-(2-chloro-4-fluorophenyl)-3-methylpyridine | 9.35 mmol, 3.55 g, 1 eq | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)Cl)C | C12H7Br2ClFN
reactant | N-bromosuccinimide | 11.22 mmol, 2.0 g, 1.2 eq | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.9 mmol, 226 mg, 0.1 eq | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | 1,2-dichloroethane | 90 mL | ClCCCl | C2H4Cl2
product | 4,6-dibromo-3-(bromomethyl)-2-(2-chloro-4-fluorophenyl)pyridine | BrC1=C(C(=NC(=C1)Br)C1=C(C=C(C=C1)F)Cl)CBr | C12H6Br3ClFN
